US05068325
9b) 2-Amino-6-(2-methyl-3-phenyl-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-methyl-3-phenyl-allyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform for 2 hours at ambient temperature. Yield: 8% of theory, Melting point: 112°-115° C.

reactant | 2-methyl-3-phenyl-allyl chloride | CC(CCl)=CC1=CC=CC=C1 | C10H11Cl
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(2-methyl-3-phenyl-2-propen-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 8% | NC=1SC=2CCN(CCC2N1)CC(=CC1=CC=CC=C1)C | C17H21N3S
